US09193717B2
Step B: (2R)-2-Benzyl-3-ethoxy-2-hydroxy-3-oxopropanoic acid
To diethyl benzyl(hydroxy)propanedioate (6.3 g) in 50 mL of EtOH (anhydrous) was added KOH (1.5 g). The mixture was stirred at rt over night. After removing the solvent in vacuo, the residue was taken up with 100 mL of ethyl acetate and 150 mL of water. The organic layer was removed. To the aqueous layer containing the potassium salt of the desired product was added 0.2 N HCl until pH=2. The mixture was extracted with 200 mL ethyl acetate. The organic layer was dried with magnesium sulfate and concentrated to give the title acid as a colorless oil. The racemic acid was then purified by chrial SFC(OJ-H, 4.6×100 mm, 5% MeOH/0.1% TFA/CO2, 2.5 mL/min, 100 bar) to give the title compound as a single enantiomer. LC/MS 261.1 (M+23).

reactant | diethyl benzyl(hydroxy)propanedioate | 6.3 g | C(C1=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)O | C14H18O5
reactant | KOH | 1.5 g | [OH-].[K+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | (2R)-2-Benzyl-3-ethoxy-2-hydroxy-3-oxopropanoic acid | C(C1=CC=CC=C1)[C@@](C(=O)O)(C(=O)OCC)O | C12H14O5
